US04474754
This reaction mixture was added to a mixture consisting of 80 mg of Peptide B, i.e., H-Thr-His-Ser-Leu-Gly-Asn-Arg-Arg-Ala-Leu-Ile-Leu-Leu-Ala-Gln-OH, 5 ml of dimethylformamide and 6 ml of hexamethylphosphoric triamide, and stirred at 4° C. for 20 hours. Further, to the reaction mixture was added 116 mg of azide product of Z-Ser-Asp-Leu-Pro-Gln-NHNHBoc, then stirred for 28 hours. Dimethylformamide was removed by distillation and the residue thus obtained was extracted with butanol. The extract was washed with water and butanol was removed by distillation. Then the residue was crystallized from petroleum ether and the crystals precipitated were collected by filtration, then reprecipitated from methanol-ethyl acetate. Thus obtained Z-Ser-Asp-Leu-Pro-Gln-Thr-His-Ser-Leu-Gly-Asn-Arg-Arg-Ala-Leu-Ile-Leu-Leu-Ala-Gln-OH was dissolved in 30 ml of methanol with 30 ml of 10%-acetic acid and was catalytically reduced by using palladium as the catalyst. The catalyst was removed by filtration and the solvent was also removed by distillation. The residue thus obtained was purified by using Sephdex G-25 followed by LH-20 (eluting solvent: 1/1000N-hydrochloric acid was used respectively) to obtain 58 mg of H-Ser-Asp-Leu-Pro-Gln-Thr-His-Ser-Leu-Gly-Asn-Arg-Arg-Ala-Leu-Ile-Leu-Leu-Ala-Gln-OH. Hereinafter, this product is referred to as [Peptide C].

reactant | H-Thr-His-Ser-Leu-Gly-Asn-Arg-Arg-Ala-Leu-Ile-Leu-Leu-Ala-Gln-OH | N[C@@H]([C@H](O)C)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)O | C72H127N25O20
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | azide | 116 mg | [N-]=[N+]=[N-]
reactant | Z-Ser-Asp-Leu-Pro-Gln-NHNHBoc | N([C@@H](CO)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)N[C@@H](CCC(N)=O)C(=O)NNC(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C36H54N8O13
solvent | hexamethylphosphoric triamide | 6 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | H-Ser-Asp-Leu-Pro-Gln-Thr-His-Ser-Leu-Gly-Asn-Arg-Arg-Ala-Leu-Ile-Leu-Leu-Ala-Gln-OH | 58 mg | N[C@@H](CO)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CC2=CNC=N2)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)O)CCC1 | C95H163N31O29
